US09163021B2
Ethyl (4-cyclopropyl-1H-1,2,3-triazol-1-yl)acetate
Cyclopropylacetylene (15 g, 0.116 mol), ethyl azidoacetate (11.5 g, 0.174 mol), triethylamine (0.32 mL, 2.33 mmol) and copper iodide (442 mg, 2.33 mmol) in acetonitrile (100 mL) were stirred at 25° C. for 18 hours. The mixture was evaporated in vacuo and the residue was partitioned between water (100 mL) and ethyl acetate (100 mL). The organic phase was dried over sodium sulfate, evaporated in vacuo and purified by silica gel column chromatography eluting with EtOAc: Hexane 40: 60 to afford the title compound as a colorless liquid (95%, 21.6 g).

reactant | Cyclopropylacetylene | 0.116 mol, 15 g | C1(CC1)C#C | C5H6
reactant | ethyl azidoacetate | 0.174 mol, 11.5 g | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | copper iodide | 2.33 mmol, 442 mg | [Cu](I)I
catalyst | triethylamine | 2.33 mmol, 0.32 mL | C(C)N(CC)CC | C6H15N
product | Ethyl (4-cyclopropyl-1H-1,2,3-triazol-1-yl)acetate | 21.6 g, 95% | C1(CC1)C=1N=NN(C1)CC(=O)OCC | C9H13N3O2
